US05545630
6,6-Difluorohex-5-enoic acid N-(4-phenylthiophenyl)amide
At from 0° to 10°, 20.6 g of N,N'-dicyclohexylcarbodiimide are added, while stirring, in portions to 15 g of 6,6-difluorohex-5-enoic acid in 150 ml of dichloromethane. The mixture is stirred for a further 15 minutes under cooling and then 20.1 g of 4-phenylthioaniline are added in portions. The reaction mixture is stirred for 3 hours at room temperature and then filtered. The organic phase is washed with saturated sodium hydrogen carbonate solution and then dried over sodium sulfate. After concentration by evaporation, the residue is recrystallised from toluene/hexane, yielding the title compound having a melting point of from 80° to 81° (compound no. 2-1).

reactant | N,N'-dicyclohexylcarbodiimide | 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6,6-difluorohex-5-enoic acid | 15 g | FC(=CCCCC(=O)O)F | C6H8F2O2
reactant | 4-phenylthioaniline | 20.1 g | C1(=CC=CC=C1)SC1=CC=C(N)C=C1 | C12H11NS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6,6-Difluorohex-5-enoic acid N-(4-phenylthiophenyl)amide | C1(=CC=CC=C1)SC1=CC=C(C=C1)NC(CCCC=C(F)F)=O | C18H17F2NOS
